US05952362
A mixture of 3-(1-trityl-1H-imidazol-4-ylmethoxy)phenylamine (0.7 g, from above) and methanesulfonyl chloride (0.3 mL) in pyridine (12 mL) was stirred at room temperature overnight. Pyridine was removed under reduced pressure. The residue was dissolved in dichloromethane and washed with water and brine. After drying over sodium sulfate and evaporation of the solvent, N-[3-(1-trityl-1H-imidazol-4-ylmethoxy)-phenyl]methanesulfonamide (0.7 g) was obtained.

reactant | 3-(1-trityl-1H-imidazol-4-ylmethoxy)phenylamine | 0.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COC=1C=C(C=CC1)N | C29H25N3O
reactant | methanesulfonyl chloride | 0.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(1-trityl-1H-imidazol-4-ylmethoxy)-phenyl]methanesulfonamide | 0.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COC=1C=C(C=CC1)NS(=O)(=O)C | C30H27N3O3S
